US08008224B2
Oxalyl chloride (2.16 mL, 25 mmol) was added dropwise to a stirred solution of 3,5-di-t-butylaniline (10.28 g, 50 mmol) and triethylamine (7.0 mL, 50 mmol) in THF (200 mL) at 0° C. Upon addition, the reaction was allowed to warm up to r.t. and stirred for 1 h. The reaction mixture was then concentrated in vacuo and diluted with water (100 mL). The white precipitate was collected by filtration, washed with dilute HCl (100 mL), water (2×100 mL), and dried in vacuo. Obtained 9.07 g (78%) of N,N′-Bis(3,5-di-t-butylphenyl)oxamide as a white solid.

reactant | Oxalyl chloride | 25 mmol, 2.16 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3,5-di-t-butylaniline | 50 mmol, 10.28 g | C(C)(C)(C)C=1C=C(N)C=C(C1)C(C)(C)C | C14H23N
reactant | triethylamine | 50 mmol, 7.0 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | N,N′-Bis(3,5-di-t-butylphenyl)oxamide | 9.07 g, 78% | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)NC(=O)C(=O)NC1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C | C30H44N2O2
